US04780464
A reaction mixture of 4-chloro-1-propyl[1,2,4]triazolo[4,3-a]quinoxaline (1.0 g; 0.004 mole) and cyclopentanamine (1.0 g; 0.012 mole) in 15 ml of DMF was stirred at room temperature for 20 hours. The precipitated solid was filtered, washed with ethanol, and dried affording 0.98 g (82%) of N-cyclopentyl-1-propyl[1,2,4]triazolo[4,3-a]quinoxalin-4-amine having a mp of 186°-188° C.

reactant | 4-chloro-1-propyl[1,2,4]triazolo[4,3-a]quinoxaline | 0.004 mole, 1.0 g | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CCC | C12H11ClN4
reactant | cyclopentanamine | 0.012 mole, 1.0 g | C1(CCCC1)N | C5H11N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-cyclopentyl-1-propyl[1,2,4]triazolo[4,3-a]quinoxalin-4-amine | 0.98 g, 82% | C1(CCCC1)NC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CCC | C17H21N5
